US08703742B2
3-(Aminomethyl)-7-ethoxy-4-vinylbenzo[c][1,2]oxaborol-1(3H)-ol
A mixture of 7-ethoxy-3-(nitromethyl)-4-vinylbenzo[c][1,2]oxaborol-1(3H)-ol (205 mg, 0.78 mmol), Raney-Ni (50 mg) and 2 M NH3 in EtOH (5 mL) in EtOH (10 mL) was shaken under an atmosphere of H2 for 2 h at room temperature. The mixture was filtered through a bed of Celite and the filtrate was concentrated in vacuo. The crude amine was dissolved in EtOAc (2 mL) and HCl in Et2O (20 mL) was added immediately. After 1 h, the suspension was filtered and the resulting solid was used directly for the next step without further purification.

reactant | 7-ethoxy-3-(nitromethyl)-4-vinylbenzo[c][1,2]oxaborol-1(3H)-ol | 0.78 mmol, 205 mg | C(C)OC1=CC=C(C2=C1B(OC2C[N+](=O)[O-])O)C=C | C12H14BNO5
reactant | NH3 | 2 M | N | H3N
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Ni | 50 mg | [Ni] | Ni
product | 3-(Aminomethyl)-7-ethoxy-4-vinylbenzo[c][1,2]oxaborol-1(3H)-ol | NCC1C2=C(B(O1)O)C(=CC=C2C=C)OCC | C12H16BNO3
